US04994486
[1R.3S] 1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5-hydroxy-6-methyl-1H-2-benzopyran hydrobromide
A suspension of 1-aminomethyl-3-cyclohexyl-3,4-dihydro-5-methoxy-6-methyl-1H 2 benzopyran (467 mg, 1.43 mmol) in 10 mL of of glacial acetic acid and 10 mL of 48% hydrobromic acid was heated at reflux for 2 h. The reaction mixture was then concentrated in vacuo. The residue was crystallized from ethyl alcohol/methylene chloride to afford 478 mg of the title compound; m.p. 217°- 218° C.; MS DCl-NH3M/Z: 276 (M+H)+. Analysis calculated for C17H26BrNO2 : C, 52.71; H, 6.82; N, 3.51. Found: C, 52.85; H, 6.97; N, 3.90.

reactant | 1-aminomethyl-3-cyclohexyl-3,4-dihydro-5-methoxy-6-methyl-1H 2 benzopyran | 1.43 mmol, 467 mg | NCC1OC(CC2=C1C=CC(=C2OC)C)C2CCCCC2 | C18H27NO2
reactant | hydrobromic acid | 10 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [1R.3S] 1-Aminomethyl-3-cyclohexyl-3,4-dihydro-5-hydroxy-6-methyl-1H-2-benzopyran hydrobromide | 478 mg | Br.NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)C)C2CCCCC2 | InChI=1S/C17H25NO2.BrH/c1-11-7-8-13-14(17(11)19)9-15(20-16(13)10-18)12-5-3-2-4-6-12;/h7-8,12,15-16,19H,2-6,9-10,18H2,1H3;1H/t15-,16-;/m0./s1
